data/pmechdb/original/mc_train_fold0/raw/train.txt
CC(C)O[Al:20](OC(C)C)OC(C)C.CC12CCCC(C1C(C34C2CC(=[O:10])C(C3)C(=C)C4)C(=O)OC)(C)C(=O)OC.CC(C)O>>CC(C)O[Al-:20](OC(C)C)(OC(C)C)[O+:10]=C1CC2C3(CCCC(C3C(C24CC1C(=C)C4)C(=O)OC)(C)C(=O)OC)C.CC(C)O 10=20,
[B-:10]1(OC(C(O1)(C)C)(C)C)([OH+:11]C(C2=CC=CC=C2)C(C)C=C)OCCN(CCO)CCO.C(CO)N(CCO)CCO>>[B:10]1(OC(C(O1)(C)C)(C)C)OCCN(CCO)CCO.CC(C=C)C(C1=CC=CC=C1)[OH:11].C(CO)N(CCO)CCO 10,11=11
[H:20][O+:21](CC)CC=CC.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[O:21]CC=CC 10=20;20,21=21
[H:20][NH+:21](C)C.CN(C)C[OH:10]>>[H:20][OH+:10]CN(C)C.C[NH:21]C 10=20;20,21=21
COC(=O)CC1CCC[C:10](=[C:11]1[O-:12])C(=O)OC.CO[C:24](=[O:25])[CH:23]=[CH:22][CH:21]=[CH2:20]>>COC(=O)CC1CCC[C:10]([C:11]1=[O:12])([CH2:20][CH:21]=[CH:22][CH:23]=[C:24]([O-:25])OC)C(=O)OC 10,11=10,20;12=11;24,25=25;20,21=21,22;22,23=23,24
C[CH:20]=[O+:21]C.C[O:10][Si](C)(C)C>>C[CH:20]([O:21]C)[O+:10](C)[Si](C)(C)C 10=20;20,21=21
[B-:11]1(OC2CC3CC(C3(C)C)C2(O1)C)([CH:10]=C)[CH:20](Cl)[Cl:21].[Li+]>>[B:11]1(OC2CC3CC(C3(C)C)C2(O1)C)[CH:20]([CH:10]=C)Cl.[Cl-:21].[Li+] 10,11=10,20;20,21=21
[H:20][O:21]C(C)CCCCC.[H:10][Na:11]>>CCCCCC(C)[O-:21].[H:10][H:20].[Na+:11] 10,11=10,20;20,21=21
[H:10][AlH3-:11].CC(C)(C)O[C:20](=[O:21])N(C)CCC1=C(C=C(C(=C1)OC)OC)I.[Li+]>>[H:10][C:20](N(C)CCC1=C(C=C(C(=C1)OC)OC)I)([O-:21])OC(C)(C)C.[AlH3:11].[Li+] 10,11=10,20;20,21=21
[H:20][OH2+:21].CCC[C:10]#[C:11]OC>>[H:20][C:10](=[C+:11]OC)CCC.[OH2:21] 10,11=10,20;20,21=21
C[C:20]([C:21](=[N+]=[N-])P(=O)(OC)OC)([O-:10])OC>>C[C:20](=[O:10])OC.COP(=O)([C-:21]=[N+]=[N-])OC 10=20;20,21=21
C1CC[N+](=CCCC[N+](=O)[O-])[CH:21](C1)[C:20](=O)[O-:10].CC(=O)O.O>>C1CC[N+](=CCCC[N+](=O)[O-])[CH-:21]C1.[C:20](=O)=[O:10].CC(=O)O.O 10=20;20,21=21
[H:20][CH:21]1CC2C3CC4=C5C2(CCN3CC)C([C:22]1=[OH+:23])OC5=C(C=C4)OC.CC[N:10]1CCC23C4C1CC5=C2C(=C(C=C5)OC)OC3C(=O)CC4.CO.COC=[O+]C>>[H:20][N+:10]1(CCC23C4C1CC5=C2C(=C(C=C5)OC)OC3C(=O)CC4)CC.CCN1CCC23C4C1CC5=C2C(=C(C=C5)OC)OC3[C:22](=[CH:21]C4)[OH:23].CO.COC=[O+]C 10=20;22,23=23;20,21=21,22
[H:20][C:21]#N.C1=CNC(N=C1N)([NH-:10])[OH2+]>>[H:20][NH:10]C1(NC=CC(=N1)N)[OH2+].[C-:21]#N 10=20;20,21=21
[H:20][CH:21]1CCCC[C:22]1=[N+:23]2CCCC2.[OH-:10].C1CCNC1.C1=CC=CC=C1>>[H:20][OH:10].C1CC[C:22](=[CH:21]C1)[N:23]2CCCC2.C1CCNC1.C1=CC=CC=C1 10=20;22,23=23;20,21=21,22
C[O:11][Si-:10](C)(C)(C)[O+]=C>>C[O-:11].C[Si:10](C)(C)[O+]=C 10,11=11
[H:20][N:21]=NC1CCC2(C3CC4=C5C2(C1OC5=C(C=C4)OC)CCN3CC6CCC6)O.[OH-:10].[K+]>>[H:20][OH:10].COC1=C2C3=C(CC4C5(C3(CCN4CC6CCC6)C(O2)C(CC5)N=[N-:21])O)C=C1.[K+] 10=20;20,21=21
C[CH2+:20].C1=CC=C[CH:10]=[CH:11]1>>C[CH2:20][CH:10]1C=CC=C[CH+:11]1 10,11=10,20
[Li:10][OH+:11]CCC>>[Li+:10].CCC[OH:11] 10,11=11
[H:20][O:21]S(=O)(=O)O.C1=CC=C(C=C1)C(=[O:10])N>>[H:20][O+:10]=C(C1=CC=CC=C1)N.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][O:21]C(=NCCCC1=CN2C=CC=C2C(=O)N1C)C3=C(C=CC=C3)C(=O)NN.N[NH2:10].O.[Cl-].[K+]>>[H:20][NH2+:10]N.CN1C(=CN2C=CC=C2C1=O)CCCN=C(C3=C(C=CC=C3)C(=O)NN)[O-:21].O.[Cl-].[K+] 10=20;20,21=21
[H:20][O+:21]1CC(COC12CC(=O)C=C2)(C3=CC=CC=C3)C4=CC=CC=C4.[B-]([OH:10])(F)(F)F.CCOCC.C1=CC=C(C=C1)C(CO)(CO)C2=CC=CC=C2>>C1C(=O)C=CC12OCC(C[O:21]2)(C3=CC=CC=C3)C4=CC=CC=C4.[H:20][OH+:10][B-](F)(F)F.CCOCC.C1=CC=C(C=C1)C(CO)(CO)C2=CC=CC=C2 10=20;20,21=21
[H:20][N+:21](CC)(C(CC)C1CCCCC1)C(CCCC)(C(C)CCC2CCCC2)O.CCC(C1CCCCC1)[NH:10]CC.[BH3-]C#N.[Na+]>>[H:20][NH+:10](CC)C(CC)C1CCCCC1.CCCCC(C(C)CCC1CCCC1)([N:21](CC)C(CC)C2CCCCC2)O.[BH3-]C#N.[Na+] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CC(C)C(CCC1=CCCC1)[OH:10]>>[H:20][OH+:10]C(CCC1=CCCC1)C(C)C.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][OH+:21]C(C)(CC)CO.[OH2:10]>>[H:20][OH2+:10].CCC(C)(CO)[OH:21] 10=20;20,21=21
CC[N:10](CC)[S:20](OCC)(F)[F:21].F>>CC[N+:10](=[S:20](OCC)F)CC.[F-:21].F 10=20;20,21=21
C1=C[CH:10]=[C:11](C=C1)CBr.O[S+:20](=O)=O>>C1=C[CH:10]([C+:11](C=C1)CBr)[S:20](=O)(=O)O 10,11=10,20
[H:10][C:11]1(CCC(CC1C)C2=CC=CC=C2)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCC(CC1C)C2=CC=CC=C2.CC(C)[O-] 10,11=10,20;20,21=21;12=11
[CH+:20]([NH2:10])S>>[CH:20](=[NH2+:10])S 10=20,
[B-:10]1(OC(C(C(=[O+:11]1)C(C)COCC2=CC=CC=C2)C)C(=CCC)C)(C3CCCCC3)C4CCCCC4>>[B:10](C1CCCCC1)(C2CCCCC2)OC(C(C)C(=[O:11])C(C)COCC3=CC=CC=C3)C(=CCC)C 10,11=11
COC1CC2C3(C=C1)[CH:20](CN2C[C:11]4=[C:10]3C=C5C(=C4)OCO5)[O:21]S(=O)(=O)C.[OH-]>>COC1CC2C3(C=C1)[CH:20]4[C:10]35C=C6C(=C[C+:11]5CN2C4)OCO6.CS(=O)(=O)[O-:21].[OH-] 10,11=10,20;20,21=21
CCO[C:20]1(C=CC=C[C-:10]1[N+](=O)[O-])[F:21]>>CCO[C:20]1=[C:10](C=CC=C1)[N+](=O)[O-].[F-:21] 10=20;20,21=21
[H:20][O:21]C(=O)C1=CC2=C3CCN(C3=CC=C2N1)C(=O)OC(C)(C)C.CCOC(=O)[N-:10]N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC(=CC=C1CCO)N(=O)=O>>[H:20][N:10](C(=O)OCC)N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.CC(C)(C)OC(=O)N1CCC2=C3C=C(NC3=CC=C21)C(=O)[O-:21].C1=CC(=CC=C1CCO)N(=O)=O 10=20;20,21=21
[H:20][NH:21]C(=O)CCNC(=O)C=C.CC[O-:10]>>[H:20][O:10]CC.C=CC(=O)NCCC(=O)[NH-:21] 10=20;20,21=21
